US07960552B2
To a solution of 4.36 g (22.6 mmol) of 7-hydroxy-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid in 100 mL of MeOH was added 4.95 mL (67.7 mmol) of thionyl chloride and the solution was refluxed for 1 hr. After evaporation of the solvent, the residue was stirred vigorously in a mixture of 200 mL of EtOAc, 500 mL of H2O and 100 mL of saturated Na2CO3 (aq) until all solids dissolved. The aqueous layer was then saturated with sodium chloride and extracted twice with EtOAc. The combined organics were then washed with brine, dried over Na2SO4 and concentrated to a solid. To this solid was added 200 mL of xylenes and 3.0 g of palladium on carbon (10%) and the suspension was refluxed for 16 hr. The suspension was filtered through a pad of Celite® and silica gel. The pad was then washed with 50 mL of xylenes. The filtrate was discarded and the filter cake washed with 500 mL of a 4:1 mixture of CH2Cl2:MeOH. This filtrate was then evaporated to give 2.09 g (46%) of methyl 7-hydroxy-3-isoquinolinecarboxylate as a light brown solid. 1H NMR (400 MHz, DMSO-d6): δ 10.58 (s, 1H), 9.08 (s, 1H), 8.49 (s, 1H), 8.04 (d, J=9 Hz, 1H), 7.39 (d, J=9 Hz, 1H), 7.36 (s, 1H), 3.87 (s, 3H). ESI-LCMS m/z 204 (M+H)+.

reactant | 7-hydroxy-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | 22.6 mmol, 4.36 g | OC1=CC=C2CC(NCC2=C1)C(=O)O | C10H11NO3
reactant | thionyl chloride | 67.7 mmol, 4.95 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 100 mL | CO | CH4O
product | methyl 7-hydroxy-3-isoquinolinecarboxylate | 2.09 g, 46% | OC1=CC=C2C=C(N=CC2=C1)C(=O)OC | C11H9NO3
